US04061761
3-(4-Chloro-3-dimethylsulfamoylphenyl)-3-hydroxy-2,3,5,6-tetra-hydro-imidazo[2,1-]thiazole
7.3 g of 3-(4-chloro-3-dimethylsulfamoylphenyl)-3-hydroxy-2,3,5,6-tetrahydro-imidazo[2,1-]thiazol-hydrobromide were dissolved in 100 ml of water at 35° - 40° C. After adding a solution of 6 g of sodium bicarbonate in 200 ml of water, the mixture was stirred for 15 minutes at room temperature and the end product was filtered off. Colorless crystals, melting point: 154° C (decomposition).

reactant | 3-(4-chloro-3-dimethylsulfamoylphenyl)-3-hydroxy-2,3,5,6-tetrahydro-imidazo[2,1-]thiazol-hydrobromide | 7.3 g | Br.ClC1=C(C=C(C=C1)C1(SN=C2C1=NCN2)O)S(N(C)C)(=O)=O
reactant | sodium bicarbonate | 6 g | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 3-(4-Chloro-3-dimethylsulfamoylphenyl)-3-hydroxy-2,3,5,6-tetra-hydro-imidazo[2,1-]thiazole | ClC1=C(C=C(C=C1)C1(SN=C2C1=NCN2)O)S(N(C)C)(=O)=O | C12H13ClN4O3S2
